US03984551
A solution of acetylene dicarboxylic acid dimethyl ester (2.8g.) in dry methanol (20ml.) was added to a solution of 2,6-diamino-1-methylbenzene (1.2g.) in dry methanol (20ml.), and the mixture heated under reflux for 3 hours. The mixture was then cooled and filtered, and the solid residue of bis anil (1.9g., m.p. 194°-196°C., crystallised from dimethylformamide) was added in portions to boiling diphenyl ether (50ml.), and the mixture was kept at 240°-145°C. for 10 minutes. The mixture was then cooled, and filtered, and the solid residue was washed with petroleum ether (b.p. 40°-60°C.; 750ml.), and crystallised from dimethylsulphoxide to give 2,8-dimethoxycarbonyl-4,6-dihydroxy-10-methylpyrido[3,2-g]quinoline, m.p. 296°C.

reactant | acetylene dicarboxylic acid dimethyl ester | 2.8g | COC(=O)C#CC(=O)OC | C6H6O4
reactant | 2,6-diamino-1-methylbenzene | 1.2g | NC1=C(C(=CC=C1)N)C | C7H10N2
solvent | methanol | 20ml | CO | CH4O
solvent | methanol | 20ml | CO | CH4O
product | 2,8-dimethoxycarbonyl-4,6-dihydroxy-10-methylpyrido[3,2-g]quinoline | COC(=O)C1=NC2=C(C3=C(C=C2C(=C1)O)C(=CC(=N3)C(=O)OC)O)C | C17H14N2O6
